US08633173B2
[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(4-morpholin-4-ylmethyl-phenyl)-amine was prepared from 8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (50.0 mg, 0.173 mmol) and 4-(4-bromo-benzyl)-morpholine (55.0 mg, 0.215 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (20.0 mg, 0.0366 mmol) as the ligand in a manner analogous to Step 2d and was isolated as a yellow foam (0.006 g, 7%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.50 (d, J=6.6 Hz, 1H), 8.23 (d, J=8.3 Hz, 2H), 8.09 (d, J=8.3 Hz, 2H), 7.66 (d, J=7.4 Hz, 1H), 7.55 (d, J=8.4 Hz, 2H), 7.32 (d, J=8.2 Hz, 2H), 7.03 (t, J=6.7 Hz, 1H), 6.86 (s, 1H), 3.74-3.69 (m, 4H), 3.48 (s, 2H), 3.11 (s, 3H), 2.48-2.43 (m, 4H). MS=464 (MH)+.

reactant | 8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.173 mmol, 50.0 mg | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)N | C13H12N4O2S
reactant | 4-(4-bromo-benzyl)-morpholine | 0.215 mmol, 55.0 mg | BrC1=CC=C(CN2CCOCC2)C=C1 | C11H14BrNO
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0366 mmol, 20.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | [8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(4-morpholin-4-ylmethyl-phenyl)-amine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)CN2CCOCC2 | C24H25N5O3S
